US09326987B2
1-[({5-[6-Bromo-1-(phenylsulfonyl)-1H-indazol-4-yl]-1,3,4-oxadiazol-2-yl}methyl)amino]-3-(4-morpholinyl)-2-propanol
6-Bromo-4-[5-(chloromethyl)-1,3,4-oxadiazol-2-yl]-1-(phenylsulfonyl)-1H-indazole (300 mg, 0.661 mmol) and sodium iodide (138 mg, 0.921 mmol) were weighed into a round-bottomed flask and dissolved in acetonitrile (2 ml) before 1-amino-3-morpholin-4-ylpropan-2-ol (212 mg, 1.322 mmol, available from Enamine Ltd) and DIPEA (0.231 ml, 1.322 mmol) were added. The mixture was heated to 70° C. for 2 h, then cooled, diluted with DCM and washed with 2 M aqueous HCl (5 ml). The organic layer was separated with a hydrophobic frit and the aqueous layer was neutralised to pH 7 by addition of 2M NaOH resulting in the formation of a solid precipitate. This was filtered off under vacuum and dried in air for 2 h to give the title compound as a cream solid (220 mg).

reactant | 6-Bromo-4-[5-(chloromethyl)-1,3,4-oxadiazol-2-yl]-1-(phenylsulfonyl)-1H-indazole | 0.661 mmol, 300 mg | BrC1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=CC=C1)C=1OC(=NN1)CCl | C16H10BrClN4O3S
reactant | sodium iodide | 0.921 mmol, 138 mg | [I-].[Na+]
reactant | 1-amino-3-morpholin-4-ylpropan-2-ol | 1.322 mmol, 212 mg | NCC(CN1CCOCC1)O | C7H16N2O2
reactant | DIPEA | 1.322 mmol, 0.231 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 1-[({5-[6-Bromo-1-(phenylsulfonyl)-1H-indazol-4-yl]-1,3,4-oxadiazol-2-yl}methyl)amino]-3-(4-morpholinyl)-2-propanol | 220 mg | BrC1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=CC=C1)C1=NN=C(O1)CNCC(CN1CCOCC1)O | C23H25BrN6O5S
